US04882330
1-Phenoxy-4-[4-(3-methoxyphenyl)-1-piperazinyl]-2-butanol
This compound was prepared according to the procedure of Example 6. A mixture of 3.8 g (0.02 mole) of 1-(3-methoxyphenyl)piperazine, 4.0 g (0.02 mole) of 4-chloro-1phenoxy-2-butanol and 8.0 g (0.075 mole) of anhydrous sodium carbonate in 150 ml of 1-butanol gave 3.3 g (45%) of off-white powder, m.p. 58°-60° C. Recrystallizing solvent used was diethyl ether-petroleum ether.

reactant | 1-(3-methoxyphenyl)piperazine | 0.02 mole, 3.8 g | COC=1C=C(C=CC1)N1CCNCC1 | C11H16N2O
reactant | 4-chloro-1phenoxy-2-butanol | 0.02 mole, 4.0 g | ClCCC(COC1=CC=CC=C1)O | C10H13ClO2
reactant | sodium carbonate | 0.075 mole, 8.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1-butanol | 150 ml | C(CCC)O | C4H10O
product | 1-Phenoxy-4-[4-(3-methoxyphenyl)-1-piperazinyl]-2-butanol | 3.3 g, 45% | O(C1=CC=CC=C1)CC(CCN1CCN(CC1)C1=CC(=CC=C1)OC)O | C21H28N2O3
